US09428510B2
tert-butyl 4-(1-methylpiperidin-4-yl)-2-(2,2,2-trifluoro-N-(tetrahydro-2H-pyran-4-yl)acetamido)benzoate
6.35 mL of triethylamine and 5.50 mL of 2,2,2-trifluoroacetic anhydride (39.6 mmol) are added at 0° C. to a solution of 11.4 g of tert-butyl 4-(1-methylpiperidin-4-yl)-2-(tetrahydro-2H-pyran-4-ylamino)benzoate (30.4 mmol) in 240 mL of dichloromethane under stirring. The reaction medium is stirred at room temperature for 1 h and then 100 mL of water is added dropwise. The organic phase is decanted, dried on magnesium sulfate and dry concentrated. The residue is taken up in a mixture of ethanol/diethyl ether to yield a solid which is filtered on a fritted disc and 12.06 g of white crystals is isolated. The filtrate is concentrated (4.5 g) and then purified by flash chromatography on silica (CH2Cl2/meOH: 95:5 to 90:10, 20 min). The product obtained is recrystallized in diethyl ether to yield 1.04 g of additional white crystals (global yield=74%).

reactant | triethylamine | 6.35 mL | C(C)N(CC)CC | C6H15N
reactant | 2,2,2-trifluoroacetic anhydride | 39.6 mmol, 5.50 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | tert-butyl 4-(1-methylpiperidin-4-yl)-2-(tetrahydro-2H-pyran-4-ylamino)benzoate | 30.4 mmol, 11.4 g | CN1CCC(CC1)C1=CC(=C(C(=O)OC(C)(C)C)C=C1)NC1CCOCC1 | C22H34N2O3
reactant | water | 100 mL | O | H2O
solvent | dichloromethane | 240 mL | ClCCl | CH2Cl2
product | tert-butyl 4-(1-methylpiperidin-4-yl)-2-(2,2,2-trifluoro-N-(tetrahydro-2H-pyran-4-yl)acetamido)benzoate | 12.06 g | CN1CCC(CC1)C1=CC(=C(C(=O)OC(C)(C)C)C=C1)N(C(C(F)(F)F)=O)C1CCOCC1 | C24H33F3N2O4
